*-- pdngen: spice deck generated for chip 'chiplet7' PDN
*-- die chiplet7:  W/H: 0.002/0.002
*-- die chiplet7:  metal layers: 2


.subckt chiplet7
+ns_pad_port_0_0
+nd_pad_port_0_1
+ns_pad_port_0_2
+nd_pad_port_0_3
+nd_pad_port_1_0
+ns_pad_port_1_1
+nd_pad_port_1_2
+ns_pad_port_1_3
+ns_pad_port_2_0
+nd_pad_port_2_1
+ns_pad_port_2_2
+nd_pad_port_2_3
+nd_pad_port_3_0
+ns_pad_port_3_1
+nd_pad_port_3_2
+ns_pad_port_3_3
*-- p/g port #: 8/8
+nd_1_0_7000_1000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
rs_1_2_0_0_0 ns_1_0_0_0 ns_1_0_2000_0 0.016324
rs_1_2_0_0_1 ns_1_0_2000_0 ns_1_0_4000_0 0.016324
rs_1_2_0_0_2 ns_1_0_4000_0 ns_1_0_6000_0 0.016324
rs_1_2_0_0_3 ns_1_0_6000_0 ns_1_0_8000_0 0.016324
rs_1_2_0_1_0 ns_1_0_0_2000 ns_1_0_2000_2000 0.016324
rs_1_2_0_1_1 ns_1_0_2000_2000 ns_1_0_4000_2000 0.016324
rs_1_2_0_1_2 ns_1_0_4000_2000 ns_1_0_6000_2000 0.016324
rs_1_2_0_1_3 ns_1_0_6000_2000 ns_1_0_8000_2000 0.016324
rs_1_2_0_2_0 ns_1_0_0_4000 ns_1_0_2000_4000 0.016324
rs_1_2_0_2_1 ns_1_0_2000_4000 ns_1_0_4000_4000 0.016324
rs_1_2_0_2_2 ns_1_0_4000_4000 ns_1_0_6000_4000 0.016324
rs_1_2_0_2_3 ns_1_0_6000_4000 ns_1_0_8000_4000 0.016324
rs_1_2_0_3_0 ns_1_0_0_6000 ns_1_0_2000_6000 0.016324
rs_1_2_0_3_1 ns_1_0_2000_6000 ns_1_0_4000_6000 0.016324
rs_1_2_0_3_2 ns_1_0_4000_6000 ns_1_0_6000_6000 0.016324
rs_1_2_0_3_3 ns_1_0_6000_6000 ns_1_0_8000_6000 0.016324
rs_1_2_0_4_0 ns_1_0_0_8000 ns_1_0_2000_8000 0.016324
rs_1_2_0_4_1 ns_1_0_2000_8000 ns_1_0_4000_8000 0.016324
rs_1_2_0_4_2 ns_1_0_4000_8000 ns_1_0_6000_8000 0.016324
rs_1_2_0_4_3 ns_1_0_6000_8000 ns_1_0_8000_8000 0.016324
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
rs_2_1_0_0_0 ns_2_0_0_0 ns_2_0_0_2000 0.016324
rs_2_1_0_0_1 ns_2_0_0_2000 ns_2_0_0_4000 0.016324
rs_2_1_0_0_2 ns_2_0_0_4000 ns_2_0_0_6000 0.016324
rs_2_1_0_0_3 ns_2_0_0_6000 ns_2_0_0_8000 0.016324
rs_2_1_0_1_0 ns_2_0_2000_0 ns_2_0_2000_2000 0.016324
rs_2_1_0_1_1 ns_2_0_2000_2000 ns_2_0_2000_4000 0.016324
rs_2_1_0_1_2 ns_2_0_2000_4000 ns_2_0_2000_6000 0.016324
rs_2_1_0_1_3 ns_2_0_2000_6000 ns_2_0_2000_8000 0.016324
rs_2_1_0_2_0 ns_2_0_4000_0 ns_2_0_4000_2000 0.016324
rs_2_1_0_2_1 ns_2_0_4000_2000 ns_2_0_4000_4000 0.016324
rs_2_1_0_2_2 ns_2_0_4000_4000 ns_2_0_4000_6000 0.016324
rs_2_1_0_2_3 ns_2_0_4000_6000 ns_2_0_4000_8000 0.016324
rs_2_1_0_3_0 ns_2_0_6000_0 ns_2_0_6000_2000 0.016324
rs_2_1_0_3_1 ns_2_0_6000_2000 ns_2_0_6000_4000 0.016324
rs_2_1_0_3_2 ns_2_0_6000_4000 ns_2_0_6000_6000 0.016324
rs_2_1_0_3_3 ns_2_0_6000_6000 ns_2_0_6000_8000 0.016324
rs_2_1_0_4_0 ns_2_0_8000_0 ns_2_0_8000_2000 0.016324
rs_2_1_0_4_1 ns_2_0_8000_2000 ns_2_0_8000_4000 0.016324
rs_2_1_0_4_2 ns_2_0_8000_4000 ns_2_0_8000_6000 0.016324
rs_2_1_0_4_3 ns_2_0_8000_6000 ns_2_0_8000_8000 0.016324
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rvs_1_0_0_0 ns_1_0_0_0 ns_2_0_0_0 0.005
rvs_1_0_0_1 ns_1_0_2000_0 ns_2_0_2000_0 0.005
rvs_1_0_0_2 ns_1_0_4000_0 ns_2_0_4000_0 0.005
rvs_1_0_0_3 ns_1_0_6000_0 ns_2_0_6000_0 0.005
rvs_1_0_0_4 ns_1_0_8000_0 ns_2_0_8000_0 0.005
rvs_1_0_1_0 ns_1_0_0_2000 ns_2_0_0_2000 0.005
rvs_1_0_1_1 ns_1_0_2000_2000 ns_2_0_2000_2000 0.005
rvs_1_0_1_2 ns_1_0_4000_2000 ns_2_0_4000_2000 0.005
rvs_1_0_1_3 ns_1_0_6000_2000 ns_2_0_6000_2000 0.005
rvs_1_0_1_4 ns_1_0_8000_2000 ns_2_0_8000_2000 0.005
rvs_1_0_2_0 ns_1_0_0_4000 ns_2_0_0_4000 0.005
rvs_1_0_2_1 ns_1_0_2000_4000 ns_2_0_2000_4000 0.005
rvs_1_0_2_2 ns_1_0_4000_4000 ns_2_0_4000_4000 0.005
rvs_1_0_2_3 ns_1_0_6000_4000 ns_2_0_6000_4000 0.005
rvs_1_0_2_4 ns_1_0_8000_4000 ns_2_0_8000_4000 0.005
rvs_1_0_3_0 ns_1_0_0_6000 ns_2_0_0_6000 0.005
rvs_1_0_3_1 ns_1_0_2000_6000 ns_2_0_2000_6000 0.005
rvs_1_0_3_2 ns_1_0_4000_6000 ns_2_0_4000_6000 0.005
rvs_1_0_3_3 ns_1_0_6000_6000 ns_2_0_6000_6000 0.005
rvs_1_0_3_4 ns_1_0_8000_6000 ns_2_0_8000_6000 0.005
rvs_1_0_4_0 ns_1_0_0_8000 ns_2_0_0_8000 0.005
rvs_1_0_4_1 ns_1_0_2000_8000 ns_2_0_2000_8000 0.005
rvs_1_0_4_2 ns_1_0_4000_8000 ns_2_0_4000_8000 0.005
rvs_1_0_4_3 ns_1_0_6000_8000 ns_2_0_6000_8000 0.005
rvs_1_0_4_4 ns_1_0_8000_8000 ns_2_0_8000_8000 0.005
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 2.017e-02ns 0.0  7.017e-02ns 8.4e-03  2.832e-01ns 8.4e-03  3.332e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 40.694
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 1.21823e-12
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 3.566e-02ns 0.0  8.566e-02ns 6.0e-03  7.421e-01ns 6.0e-03  7.921e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 21.2815
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 3.84732e-12
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 7.583e-01ns 0.0  8.083e-01ns 1.2e-02  8.877e-01ns 1.2e-02  9.377e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 55.9844
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 1.24533e-12
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 1.299e-01ns 0.0  1.799e-01ns 7.0e-03  4.602e-01ns 7.0e-03  5.102e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 38.9408
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 7.66943e-13
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 5.281e-01ns 0.0  5.781e-01ns 1.2e-02  8.752e-01ns 1.2e-02  9.252e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 20.901
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 5.69627e-12
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 2.075e-02ns 0.0  7.075e-02ns 9.0e-03  7.273e-01ns 9.0e-03  7.773e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 14.1924
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 7.53992e-12
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 4.233e-01ns 0.0  4.733e-01ns 2.7e-02  7.319e-01ns 2.7e-02  7.819e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 10.8022
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 8.86777e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 6.935e-01ns 0.0  7.435e-01ns 2.9e-02  8.446e-01ns 2.9e-02  8.946e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 20.3628
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 2.71525e-12
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 7.708e-01ns 0.0  8.208e-01ns 3.8e-02  9.407e-01ns 3.8e-02  9.907e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 14.0464
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 1.02269e-11
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 5.883e-01ns 0.0  6.383e-01ns 5.1e-02  7.534e-01ns 5.1e-02  8.034e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 10.6412
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 3.03292e-12
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 8.770e-02ns 0.0  1.377e-01ns 8.2e-03  7.970e-01ns 8.2e-03  8.470e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 15.4859
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 7.76345e-12
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 4.826e-01ns 0.0  5.326e-01ns 5.0e-03  8.459e-01ns 5.0e-03  8.959e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 49.2461
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 2.25262e-12
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 8.819e-01ns 0.0  9.319e-01ns 1.6e-01  9.355e-01ns 1.6e-01  9.855e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 10.5656
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 1.87586e-11
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 8.333e-01ns 0.0  8.833e-01ns 2.0e-02  8.925e-01ns 2.0e-02  9.425e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 75.2223
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 2.48289e-12
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 7.760e-01ns 0.0  8.260e-01ns 2.6e-02  8.986e-01ns 2.6e-02  9.486e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 28.0186
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 6.24263e-12
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 2.807e-01ns 0.0  3.307e-01ns 6.2e-02  3.434e-01ns 6.2e-02  3.934e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 23.0885
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 2.74257e-12
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 6.748e-01ns 0.0  7.248e-01ns 3.9e-02  8.294e-01ns 3.9e-02  8.794e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 15.0484
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 1.00927e-11
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 1.747e-01ns 0.0  2.247e-01ns 2.3e-02  5.233e-01ns 2.3e-02  5.733e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 11.2435
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 1.24868e-11
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 5.665e-01ns 0.0  6.165e-01ns 1.6e-02  9.006e-01ns 1.6e-02  9.506e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 16.8238
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 7.76378e-12
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 7.556e-02ns 0.0  1.256e-01ns 2.0e-03  7.890e-01ns 2.0e-03  8.390e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 64.6314
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 2.78783e-13
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 2.149e-02ns 0.0  7.149e-02ns 5.8e-02  1.611e-01ns 5.8e-02  2.111e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 11.1211
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 7.08279e-12
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 7.429e-01ns 0.0  7.929e-01ns 1.4e-02  7.994e-01ns 1.4e-02  8.494e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 115.667
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.44608e-12
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 2.428e-01ns 0.0  2.928e-01ns 4.0e-03  9.398e-01ns 4.0e-03  9.898e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 32.0261
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 1.74714e-12
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 6.429e-01ns 0.0  6.929e-01ns 1.1e-03  8.027e-01ns 1.1e-03  8.527e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 525.473
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 8.49051e-14
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 1.396e-01ns 0.0  1.896e-01ns 1.6e-02  4.736e-01ns 1.6e-02  5.236e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 16.5323
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 1.98698e-12
is_0_0_0_0 0 ns_1_0_0_0 pwl(0 0.0 1.479e-01ns 0.0  1.979e-01ns 3.1e-03  7.532e-01ns 3.1e-03  8.032e-01ns 0.0)
rsesr_0_0_0_0 ns_1_0_0_0 ns_1_0_0_0_ci 48.6954
cs_0_0_0_0 ns_1_0_0_0_ci 0 2.17411e-12
is_0_0_0_1 0 ns_1_0_2000_0 pwl(0 0.0 2.918e-01ns 0.0  3.418e-01ns 8.6e-02  3.666e-01ns 8.6e-02  4.166e-01ns 0.0)
rsesr_0_0_0_1 ns_1_0_2000_0 ns_1_0_2000_0_ci 14.0533
cs_0_0_0_1 ns_1_0_2000_0_ci 0 1.18859e-11
is_0_0_0_2 0 ns_1_0_4000_0 pwl(0 0.0 2.370e-01ns 0.0  2.870e-01ns 1.1e-02  6.065e-01ns 1.1e-02  6.565e-01ns 0.0)
rsesr_0_0_0_2 ns_1_0_4000_0 ns_1_0_4000_0_ci 21.5503
cs_0_0_0_2 ns_1_0_4000_0_ci 0 2.57788e-12
is_0_0_0_3 0 ns_1_0_6000_0 pwl(0 0.0 6.381e-01ns 0.0  6.881e-01ns 3.6e-02  7.996e-01ns 3.6e-02  8.496e-01ns 0.0)
rsesr_0_0_0_3 ns_1_0_6000_0 ns_1_0_6000_0_ci 15.2798
cs_0_0_0_3 ns_1_0_6000_0_ci 0 2.85406e-12
is_0_0_0_4 0 ns_1_0_8000_0 pwl(0 0.0 1.365e-01ns 0.0  1.865e-01ns 5.1e-03  8.494e-01ns 5.1e-03  8.994e-01ns 0.0)
rsesr_0_0_0_4 ns_1_0_8000_0 ns_1_0_8000_0_ci 24.6441
cs_0_0_0_4 ns_1_0_8000_0_ci 0 5.33264e-12
is_0_0_0_5 0 ns_1_0_0_2000 pwl(0 0.0 8.282e-02ns 0.0  1.328e-01ns 1.4e-02  3.890e-01ns 1.4e-02  4.390e-01ns 0.0)
rsesr_0_0_0_5 ns_1_0_0_2000 ns_1_0_0_2000_ci 21.232
cs_0_0_0_5 ns_1_0_0_2000_ci 0 9.4312e-13
is_0_0_0_6 0 ns_1_0_2000_2000 pwl(0 0.0 3.113e-02ns 0.0  8.113e-02ns 8.5e-03  7.327e-01ns 8.5e-03  7.827e-01ns 0.0)
rsesr_0_0_0_6 ns_1_0_2000_2000 ns_1_0_2000_2000_ci 15.0307
cs_0_0_0_6 ns_1_0_2000_2000_ci 0 6.12573e-13
is_0_0_0_7 0 ns_1_0_4000_2000 pwl(0 0.0 4.337e-01ns 0.0  4.837e-01ns 2.5e-02  7.433e-01ns 2.5e-02  7.933e-01ns 0.0)
rsesr_0_0_0_7 ns_1_0_4000_2000 ns_1_0_4000_2000_ci 11.6981
cs_0_0_0_7 ns_1_0_4000_2000_ci 0 1.44287e-11
is_0_0_0_8 0 ns_1_0_6000_2000 pwl(0 0.0 8.298e-01ns 0.0  8.798e-01ns 6.4e-02  9.145e-01ns 6.4e-02  9.645e-01ns 0.0)
rsesr_0_0_0_8 ns_1_0_6000_2000 ns_1_0_6000_2000_ci 16.5965
cs_0_0_0_8 ns_1_0_6000_2000_ci 0 5.20138e-12
is_0_0_0_9 0 ns_1_0_8000_2000 pwl(0 0.0 7.769e-01ns 0.0  8.269e-01ns 2.0e-02  8.813e-01ns 2.0e-02  9.313e-01ns 0.0)
rsesr_0_0_0_9 ns_1_0_8000_2000 ns_1_0_8000_2000_ci 43.4108
cs_0_0_0_9 ns_1_0_8000_2000_ci 0 1.05689e-12
is_0_0_0_10 0 ns_1_0_0_4000 pwl(0 0.0 2.769e-01ns 0.0  3.269e-01ns 1.3e-02  5.609e-01ns 1.3e-02  6.109e-01ns 0.0)
rsesr_0_0_0_10 ns_1_0_0_4000 ns_1_0_0_4000_ci 23.8621
cs_0_0_0_10 ns_1_0_0_4000_ci 0 1.44209e-12
is_0_0_0_11 0 ns_1_0_2000_4000 pwl(0 0.0 5.452e-01ns 0.0  5.952e-01ns 1.6e-02  8.864e-01ns 1.6e-02  9.364e-01ns 0.0)
rsesr_0_0_0_11 ns_1_0_2000_4000 ns_1_0_2000_4000_ci 16.3848
cs_0_0_0_11 ns_1_0_2000_4000_ci 0 7.45088e-12
is_0_0_0_12 0 ns_1_0_4000_4000 pwl(0 0.0 4.166e-02ns 0.0  9.166e-02ns 1.0e-02  7.473e-01ns 1.0e-02  7.973e-01ns 0.0)
rsesr_0_0_0_12 ns_1_0_4000_4000 ns_1_0_4000_4000_ci 12.4887
cs_0_0_0_12 ns_1_0_4000_4000_ci 0 1.13133e-11
is_0_0_0_13 0 ns_1_0_6000_4000 pwl(0 0.0 5.745e-01ns 0.0  6.245e-01ns 1.4e-02  8.563e-01ns 1.4e-02  9.063e-01ns 0.0)
rsesr_0_0_0_13 ns_1_0_6000_4000 ns_1_0_6000_4000_ci 23.0394
cs_0_0_0_13 ns_1_0_6000_4000_ci 0 5.5559e-14
is_0_0_0_14 0 ns_1_0_8000_4000 pwl(0 0.0 3.974e-01ns 0.0  4.474e-01ns 4.3e-02  5.260e-01ns 4.3e-02  5.760e-01ns 0.0)
rsesr_0_0_0_14 ns_1_0_8000_4000 ns_1_0_8000_4000_ci 16.114
cs_0_0_0_14 ns_1_0_8000_4000_ci 0 1.17387e-11
is_0_0_0_15 0 ns_1_0_0_6000 pwl(0 0.0 7.915e-01ns 0.0  8.415e-01ns 2.9e-02  9.063e-01ns 2.9e-02  9.563e-01ns 0.0)
rsesr_0_0_0_15 ns_1_0_0_6000 ns_1_0_0_6000_ci 26.927
cs_0_0_0_15 ns_1_0_0_6000_ci 0 6.63434e-12
is_0_0_0_16 0 ns_1_0_2000_6000 pwl(0 0.0 4.225e-01ns 0.0  4.725e-01ns 1.6e-02  7.324e-01ns 1.6e-02  7.824e-01ns 0.0)
rsesr_0_0_0_16 ns_1_0_2000_6000 ns_1_0_2000_6000_ci 17.836
cs_0_0_0_16 ns_1_0_2000_6000_ci 0 5.29488e-12
is_0_0_0_17 0 ns_1_0_4000_6000 pwl(0 0.0 8.161e-01ns 0.0  8.661e-01ns 4.3e-02  9.485e-01ns 4.3e-02  9.985e-01ns 0.0)
rsesr_0_0_0_17 ns_1_0_4000_6000 ns_1_0_4000_6000_ci 15.9572
cs_0_0_0_17 ns_1_0_4000_6000_ci 0 1.147e-11
is_0_0_0_18 0 ns_1_0_6000_6000 pwl(0 0.0 7.633e-01ns 0.0  8.133e-01ns 1.9e-02  9.408e-01ns 1.9e-02  9.908e-01ns 0.0)
rsesr_0_0_0_18 ns_1_0_6000_6000 ns_1_0_6000_6000_ci 26.4568
cs_0_0_0_18 ns_1_0_6000_6000_ci 0 6.49274e-12
is_0_0_0_19 0 ns_1_0_8000_6000 pwl(0 0.0 7.135e-01ns 0.0  7.635e-01ns 3.5e-02  8.582e-01ns 3.5e-02  9.082e-01ns 0.0)
rsesr_0_0_0_19 ns_1_0_8000_6000 ns_1_0_8000_6000_ci 17.5949
cs_0_0_0_19 ns_1_0_8000_6000_ci 0 9.12555e-12
is_0_0_0_20 0 ns_1_0_0_8000 pwl(0 0.0 6.599e-01ns 0.0  7.099e-01ns 1.0e-02  9.389e-01ns 1.0e-02  9.889e-01ns 0.0)
rsesr_0_0_0_20 ns_1_0_0_8000 ns_1_0_0_8000_ci 31.3582
cs_0_0_0_20 ns_1_0_0_8000_ci 0 1.53471e-12
is_0_0_0_21 0 ns_1_0_2000_8000 pwl(0 0.0 1.552e-01ns 0.0  2.052e-01ns 4.8e-03  8.690e-01ns 4.8e-03  9.190e-01ns 0.0)
rsesr_0_0_0_21 ns_1_0_2000_8000 ns_1_0_2000_8000_ci 26.0465
cs_0_0_0_21 ns_1_0_2000_8000_ci 0 1.43012e-12
is_0_0_0_22 0 ns_1_0_4000_8000 pwl(0 0.0 1.084e-01ns 0.0  1.584e-01ns 1.7e-02  4.221e-01ns 1.7e-02  4.721e-01ns 0.0)
rsesr_0_0_0_22 ns_1_0_4000_8000 ns_1_0_4000_8000_ci 17.3756
cs_0_0_0_22 ns_1_0_4000_8000_ci 0 7.21946e-12
is_0_0_0_23 0 ns_1_0_6000_8000 pwl(0 0.0 5.291e-02ns 0.0  1.029e-01ns 1.0e-02  3.393e-01ns 1.0e-02  3.893e-01ns 0.0)
rsesr_0_0_0_23 ns_1_0_6000_8000 ns_1_0_6000_8000_ci 30.3359
cs_0_0_0_23 ns_1_0_6000_8000_ci 0 4.68315e-13
is_0_0_0_24 0 ns_1_0_8000_8000 pwl(0 0.0 3.014e-03ns 0.0  5.301e-02ns 3.0e-03  2.521e-01ns 3.0e-03  3.021e-01ns 0.0)
rsesr_0_0_0_24 ns_1_0_8000_8000 ns_1_0_8000_8000_ci 120.929
cs_0_0_0_24 ns_1_0_8000_8000_ci 0 8.51665e-13

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val160'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val161'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val162'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val163'
rd_add0 nd0 0 'esr39'
rd_add1 nd1 0 'esr40'
rd_add2 nd2 0 'esr41'
rd_add3 nd3 0 'esr42'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xs_pad_0_0 ns_pad_port_0_0 ns_pad_0_0 ubump_subckt
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xs_pad_0_2 ns_pad_port_0_2 ns_pad_0_2 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xs_pad_1_1 ns_pad_port_1_1 ns_pad_1_1 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xs_pad_1_3 ns_pad_port_1_3 ns_pad_1_3 ubump_subckt
xs_pad_2_0 ns_pad_port_2_0 ns_pad_2_0 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xs_pad_2_2 ns_pad_port_2_2 ns_pad_2_2 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xs_pad_3_1 ns_pad_port_3_1 ns_pad_3_1 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xs_pad_3_3 ns_pad_port_3_3 ns_pad_3_3 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rs_pad2via_0_0 ns_pad_0_0 ns_2_0_2000_2000  0.001
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rs_pad2via_0_2 ns_pad_0_2 ns_2_0_2000_6000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rs_pad2via_1_1 ns_pad_1_1 ns_2_0_4000_4000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rs_pad2via_1_3 ns_pad_1_3 ns_2_0_4000_8000  0.001
rs_pad2via_2_0 ns_pad_2_0 ns_2_0_6000_2000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rs_pad2via_2_2 ns_pad_2_2 ns_2_0_6000_6000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rs_pad2via_3_1 ns_pad_3_1 ns_2_0_8000_4000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001
rs_pad2via_3_3 ns_pad_3_3 ns_2_0_8000_8000  0.001

.ends chiplet7
